US09447084B2
4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]-1-(3,3,3-trifluoropropyl)piperazine-2,6-dione
Into a 50-mL round-bottom flask, was placed 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]piperazine-2,6-dione (200 mg, 0.36 mmol, 1.00 equiv), 1,1,1-trifluoro-3-iodopropane (163.5 mg, 0.73 mmol, 2.00 equiv), N,N-dimethylformamide (10 mL), potassium carbonate (100.7 mg, 0.73 mmol, 2.00 equiv). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 60 mL of H2O. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 4×40 mL of brine. The mixture was dried over anhydrous sodium sulfate. The resulting mixture was concentrated under vacuum. The crude product (85 mg) was purified by Prep-HPLC. This resulted in 39.5 g (17%) of 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]-1-(3,3,3-trifluoropropyl)piperazine-2,6-dione as a white solid. (ES, m/z): [M+CH3CN]+ 685.0; 1H NMR (300 MHz, CDCl3): δ 7.85 (s, 1H), 7.78 (s, 1H), 7.72 (s, 1H), 7.61 (d, J=8.7 Hz, 2H), 7.28-7.23 (m, 1H), 4.79 (s, 2H), 4.19-4.10 (m, 5H), 3.75 (d, J=17.4 Hz, 1H), 2.49-2.41 (m, 2H), 2.32 (s, 3H)

reactant | 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]piperazine-2,6-dione | 0.36 mmol, 200 mg, 1.00 equiv | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(NC(C1)=O)=O)C)C(F)(F)F | C23H16ClF6N3O4
reactant | 1,1,1-trifluoro-3-iodopropane | 0.73 mmol, 163.5 mg, 2.00 equiv | FC(CCI)(F)F | C3H4F3I
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.73 mmol, 100.7 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | H2O | 60 mL | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | 4-[(4-[5-[3-chloro-5-(trifluoromethyl)phenyl]-5-(trifluoromethyl)-4,5-dihydro-1,2-oxazol-3-yl]-2-methylphenyl)carbonyl]-1-(3,3,3-trifluoropropyl)piperazine-2,6-dione | ClC=1C=C(C=C(C1)C(F)(F)F)C1(CC(=NO1)C1=CC(=C(C=C1)C(=O)N1CC(N(C(C1)=O)CCC(F)(F)F)=O)C)C(F)(F)F | C26H19ClF9N3O4
